US07807676B2
A suspension of 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (100 mg, 0.195 mmol), pyrimidin-4-amine (55.7 mg, 0.586 mmol), Tris(dibenzylideneacetone)dipalladium(0) (8.94 mg, 9.76 μmol), 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene (11.29 mg, 0.020 mmol) and Cesium carbonate (127 mg, 0.390 mmol) in Dioxane (2 mL) was heated at 115° C. for 4 hours. After cooling to rt, the mixture was diluted with MeOH and filtered. The filtrate was concentrated and purified by prep. HPLC to give 1-(4-methoxy-7-(pyrimidin-4-ylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (4.1 mg, 7.79 μmol, 3.99% yield). LCMS: m/e 527.3 (M+H)+, ret time 1.02 min. 1H NMR (500 MHz, MeOD) δ ppm 8.87 (s, 1H) 8.61 (d, J=3.66 Hz, 1H) 8.49 (d, J=6.10 Hz, 1H) 8.42 (s, 1H) 8.03-8.10 (m, 1H) 7.83 (d, J=7.94 Hz, 1H) 7.67 (s, 1H) 7.51-7.56 (m, 2H) 4.02 (s, 3H) 3.83-3.90 (m, 2H) 3.62-3.67 (m, 2H) 3.43-3.56 (m, 4H).

reactant | 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.195 mmol, 100 mg | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)OC | C20H18BrN9O3
reactant | pyrimidin-4-amine | 0.586 mmol, 55.7 mg | N1=CN=C(C=C1)N | C4H5N3
reactant | 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene | 0.020 mmol, 11.29 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Cesium carbonate | 0.390 mmol, 127 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 9.76 μmol, 8.94 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-methoxy-7-(pyrimidin-4-ylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 7.79 μmol, 4.1 mg, 3.99% yield | COC1=C2C(=C(N=C1)NC1=NC=NC=C1)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O | C24H22N12O3
